US04148998
3-[(Acetyloxy)methyl]-7-[[2-sulfo-2-(1-pyrryl)acetyl]-amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A solution of 2-sulfo-2-(1-pyrryl)acetyl chloride (1 equivalent) in ether is added to 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid (1 equivalent) and sodium bicarbonate (about 3 equivalents) in water at about 0° C. After about 30 minutes the phases are separated, the pH adjusted to about 6.5 and the aqueous phase extracted with ethyl acetate. The ethyl acetate is dried over megnesium sulfate, filtered and evaporated to give the title compound.

reactant | 2-sulfo-2-(1-pyrryl)acetyl chloride | 1 equivalent | S(=O)(=O)(O)C(C(=O)Cl)N1C=CC=C1 | C6H6ClNO4S
reactant | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]-oct-2-ene-2-carboxylic acid | 1 equivalent | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C10H12N2O5S
reactant | sodium bicarbonate | about 3 equivalents | C([O-])(O)=O.[Na+]
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-[(Acetyloxy)methyl]-7-[[2-sulfo-2-(1-pyrryl)acetyl]-amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(N1C=CC=C1)S(=O)(=O)O)=O)=O)C(=O)O | C16H17N3O9S2
